US06100275
(±)-3-(4-Fluorophenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate
The title compound was prepared from (±)-3-(4-fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene (1.6 g, 7.37 mmol) and 1-chloroethyl chloroformate (1.2 mL, 1.6g, 11 mmol). The free base of the title compound was dissolved in isopropanol and added malonic acid (0.43 g, 4.1 mmol), the title compound precipitated from this solution and was isolated by filtration. Yield 1.14 g (50%) m.p. 132.2-132.6° C.

reactant | (±)-3-(4-fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | 7.37 mmol, 1.6 g | FC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | C14H16FN
reactant | 1-chloroethyl chloroformate | 11 mmol, 1.2 mL, 1.6g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | malonic acid | 4.1 mmol, 0.43 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | isopropanol | C(C)(C)O | C3H8O
product | (±)-3-(4-Fluorophenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate | C(CC(=O)O)(=O)O.FC1=CC=C(C=C1)C1=CC2CCC(C1)N2 | InChI=1S/C13H14FN.C3H4O4/c14-11-3-1-9(2-4-11)10-7-12-5-6-13(8-10)15-12;4-2(5)1-3(6)7/h1-4,7,12-13,15H,5-6,8H2;1H2,(H,4,5)(H,6,7)
